US08629157B2
Synthesis of (S)-1-(4-chloro-phenyl)-2-methyl-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
A round bottomed flask is charged with (S)-1-(4-chloro-phenyl)-2-methyl-pyrrolidine-2-carboxylic acid (0.260 g; 1.085 mmol), triethylamine (0.529 mL; 3.798 mmol), and tetrahydrofuran (3 mL). Propylphorsphoric anhydride (50% in ethyl acetate) (0.678 mL; 1.139 mmol) is added dropwise and stirred for 30 minutes. 3-Amino-5-tertbutylisoxazole (0.152 g; 1.085 mmol) is added and the reaction is heated at 80° C. for 40 minutes in a microwave reactor. After this time, the reaction mixture is cooled to room temperature, diluted with ethyl acetate and washed with aqueous sodium bicarbonate solution. The aqueous is back extracted with ethyl acetate and the organics are combined and washed with brine, dried (Na2SO4), filtered and concentrated. Purification by preparative HPLC affords title compound. ESI m/z 362 [M+H]+

reactant | (S)-1-(4-chloro-phenyl)-2-methyl-pyrrolidine-2-carboxylic acid | 1.085 mmol, 0.260 g | ClC1=CC=C(C=C1)N1[C@@](CCC1)(C(=O)O)C | C12H14ClNO2
reactant | triethylamine | 3.798 mmol, 0.529 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | 3-Amino-5-tertbutylisoxazole | 1.085 mmol, 0.152 g | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(4-chloro-phenyl)-2-methyl-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@]1(N(CCC1)C1=CC=C(C=C1)Cl)C | C19H24ClN3O2
